* extracted by klt extract --deck gf180mcu

* cell ADC_TGATE_DUM
* pin clk
* pin clkb
* pin vin
* pin vout
* pin vsubs
.SUBCKT ADC_TGATE_DUM clk clkb vin vout vsubs
* device instance $1 r0 *1 1.24,8.75 nfet
M$1 vout clkb vout vsubs nfet L=0.28U W=17.5U AS=19.25P AD=19.25P PS=37.2U
+ PD=37.2U
* device instance $2 r0 *1 4.62,20 nfet
M$2 vin clk vout vsubs nfet L=0.28U W=40U AS=44P AD=44P PS=82.2U PD=82.2U
* device instance $3 r0 *1 12.98,17.5 pfet
M$3 vout clk vout \$5 pfet L=0.28U W=35U AS=38.5P AD=38.5P PS=72.2U PD=72.2U
* device instance $4 r0 *1 9.6,40 pfet
M$4 vin clkb vout \$5 pfet L=0.28U W=80U AS=88P AD=88P PS=162.2U PD=162.2U
.ENDS ADC_TGATE_DUM
